US06528510B1
6-tert-Butyl-5-thiocyanato-1H-indole-2-carboxylate ethyl ester
The title compound was prepared according to General Method 13 using 6-tert-butyl-1H-indole-2-carboxylic acid ethyl ester (prepared in Example YY; 3.5 g, 14 mmol), ammonium thiocyanate (1.63 g, 21.4 mmol), bromine (3.42 g, 21.4 mmol), and MeOH (50 mL). The crude product was purified by flash silica gel chromatography (5%-50% EtOAc in hexanes as eluents). MS(APCI): 301 (M−H).

reactant | 6-tert-butyl-1H-indole-2-carboxylic acid ethyl ester | 14 mmol, 3.5 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)C(C)(C)C | C15H19NO2
reactant | ammonium thiocyanate | 21.4 mmol, 1.63 g | [S-]C#N.[NH4+]
reactant | bromine | 21.4 mmol, 3.42 g | BrBr | Br2
solvent | MeOH | 50 mL | CO | CH4O
product | 6-tert-Butyl-5-thiocyanato-1H-indole-2-carboxylate ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)SC#N)C(C)(C)C | C16H18N2O2S
